US08071584B2
5-(5-{[(1,1-Dimethylethyl)amino]sulfonyl}-2-thienyl)-1H-indole-7-carboxamide
5-bromo-N-(1,1-dimethylethyl)-2-thiophenesulfonamide (828 mg, 2.78 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (4.17 mmol, 1.5 eq), potassium carbonate (1.524 g) and Pd(PPh3)4 (50 mg) were heated in Microwave at 150 degree for 15 mins after degassing for 5 mins with argon. The reaction solution was filtered off palladium with PL-thiol MP SPE cartridge, concentrated and purified by HPLC with CH3CN/H2O/0.1% TFA to give 620 mg title compound.

reactant | 5-bromo-N-(1,1-dimethylethyl)-2-thiophenesulfonamide | 2.78 mmol, 828 mg | BrC1=CC=C(S1)S(=O)(=O)NC(C)(C)C | C8H12BrNO2S2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 4.17 mmol, 1.5 eq | CC1(OB(OC1(C)C)C=1C=C2C=CNC2=C(C1)C(=O)N)C | C15H19BN2O3
reactant | potassium carbonate | 1.524 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(5-{[(1,1-Dimethylethyl)amino]sulfonyl}-2-thienyl)-1H-indole-7-carboxamide | 620 mg | CC(C)(C)NS(=O)(=O)C1=CC=C(S1)C=1C=C2C=CNC2=C(C1)C(=O)N | C17H19N3O3S2
